US09126980B2
Step 6: Preparation of (S)-1-(4-amino-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide
To a solution of (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide (1.1 g, 2.0 mmol) in EtOH (10 mL) was added 10% Pd—C (0.04 g) followed by stirring under H2 balloon pressure at RT for 5 h. The reaction mixture was filtered through celite, the bed was washed with EtOH (20 mL) and the filtrate was concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as an ‘off white’ solid 0.8 g (77%). Rf=0.33 (40% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 7.30-6.82 (m, 5H), 6.80-6.15 (m, 3H), 5.72-5.50 (m, 2H, D2O exchangeable), 5.20-4.78 (m, 1H, D2O exchangeable), 4.90-4.00 (m, 2H), 4.00-2.22 (m, 9H), 2.20-2.00 (m, 3H), 1.60-0.60 (m, 14H); LC-MS: m/z 518.3 (M+H); HPLC: 98.64% (RT=5.997 min., method B).

reactant | (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide | 2.0 mmol, 1.1 g | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C30H37N5O5
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd—C | 0.04 g | [Pd] | Pd
product | (S)-1-(4-amino-2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)phenyl)-N,N-dibutyl-5-methyl-1H-pyrazole-3-carboxamide | NC1=CC(=C(C=C1)N1N=C(C=C1C)C(=O)N(CCCC)CCCC)C(=O)N1CC2=CC=CC=C2C[C@H]1CO | C30H39N5O3
